US07666885B2
4-(Ethoxycarbonylmethyl)-2-ethyl-1,2,4-thiadiazolidine-3,5-dione (Compound 30):
Reagents: Ethyl isothiocyanatoacetate (0.8 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), ethyl isocyanate (0.51 ml, 6.5 mmol).

reactant | Ethyl isothiocyanatoacetate | 6.5 mmol, 0.8 ml | N(=C=S)CC(=O)OCC | C5H7NO2S
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | ethyl isocyanate | 6.5 mmol, 0.51 ml | C(C)N=C=O | C3H5NO
product | 4-(Ethoxycarbonylmethyl)-2-ethyl-1,2,4-thiadiazolidine-3,5-dione | C(C)OC(=O)CN1C(N(SC1=O)CC)=O | C8H12N2O4S
